US04271164
A mixture of 25.0 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine and 18.0 g of methyl isothiocyanate in 125 ml of toluene is heated at reflux for 28 hours. Cooling gives a precipitate of crude product which is collected by filtration and washed with ether. Further purification may be effected by recrystallization from isopropanol to give N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-yl]-N'-methylthiourea, mp 207.5°-208.5° C. (dec.).

reactant | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 25.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | methyl isothiocyanate | 18.0 g | CN=C=S | C2H3NS
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-yl]-N'-methylthiourea | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1NC(=S)NC | C16H13Cl2N5S
